US08067621B2
3-(tert-Butyl-dimethyl-silanyloxy)-5-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-pentan-1-ol
A solution of tert-butyl-(1-{2-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-ethyl}-but-3-enyloxy)-dimethyl-silane (1.45 g, 2.60 mmol) in 1:1 MeOH/CH2Cl2 (25 mL) at −78° C. was purged with ozone until the blue color persisted. The reaction mixture was then purged with N2 for 5 min, treated with NaBH4 (300 mg, 7.8 mmol) portionwise and slowly warmed to ambient temperature. Over the next 4.5 h, 2 additional portions of NaBH4 (500 mg each) were added, and the reaction mixture was quenched with saturated aqueous NH4Cl and concentrated in vacuo. The residue was extracted with CH2Cl2 (3×). The combined organic extracts were washed saturated aqueous NaHCO3, dried over MgSO4 and concentrated in vacuo. Flash chromatography (5→40% EtOAc/Hex) afforded the title compound (730 mg, 50%): 1H NMR (CDCl3 400 MHz) δ 7.72 (dd, J=8.8, 1.5 Hz, 2H), 7.52 (dd, J=8.8, 1.5 Hz, 2H), 7.02 (m, 1H), 6.38 (m, 1H), 4.90 (dd, J=11.7, 2.2 Hz, 1H), 4.33 (d, J=12.4 Hz, 1H), 4.28 (s, 1H), 3.85 (m, 1H), 3.73-3.64 (m, 2H), 2.76 (m, 1H), 1.91 (br s, 1H), 1.71-1.22 (m, 6H), 0.80 (s, 4.5H), 0.79 (s, 4.5H), 0.03 (s, 3H), −0.04 (s, 3H).

reactant | tert-butyl-(1-{2-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-ethyl}-but-3-enyloxy)-dimethyl-silane | 2.60 mmol, 1.45 g | C(C)(C)(C)[Si](C)(C)OC(CC=C)CCC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F | C27H35ClF2O4SSi
reactant | ozone | O=[O+][O-] | O3
reactant | NaBH4 | 7.8 mmol, 300 mg | [BH4-].[Na+]
reactant | NaBH4 | 500 mg | [BH4-].[Na+]
solvent | MeOH CH2Cl2 | 25 mL | CO.C(Cl)Cl
product | 3-(tert-Butyl-dimethyl-silanyloxy)-5-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-pentan-1-ol | 730 mg, 50% | C(C)(C)(C)[Si](OC(CCO)CCC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F)(C)C | C26H35ClF2O5SSi
